US07696223B2
a) 2,3-Dibromo-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared similarly according to a reaction sequence in Example 117 steps (a), (b), (c) and (d) for the synthesis of 2,3-dibromo-1-(4-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester starting from 2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester, 3-methoxybenzyl chloride. The title compound, ESI MS (m/z): 483 (M+H)+.

reactant | 2,3-dibromo-1-(4-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)CC2=CC=C(C=C2)F)O | C17H13Br2FN2O3
reactant | 2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC=C1)C | C8H11NO2
reactant | 3-methoxybenzyl chloride | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | 2,3-Dibromo-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)CC2=CC(=CC=C2)OC)O | C18H16Br2N2O4
